US04207234
Chloroform (1.5 ml.) was added to a solution of 1-(α-methoxycarbonyl-4-hydroxybenzyl)-3-(2-phenylacetamido)-2-azetidinone (184 mg.) dissolved in dioxane (2 ml.), and a chloroform (0.5 ml.) solution containing bromine (184 mg.) was added dropwise to said mixture in 5 minutes under ice-cooling. After addition of ethyl acetate (80 ml.) to said reaction mixture, the ethyl acetate layer was separated out, washed with water and dried over anhydrous magnesium sulfate. This solution was concentrated, and the residue was dissolved in a small amount of acetone. The solution was subjected to preparative thin layer chromatography using silica.gel [developing solvent; a mixture of chloroform and methanol (5:0.3)] for isolation and purification. The product thus obtained was recrystallized from a mixture of ethyl acetate and acetone to give 1-(α-methoxycarbonyl-3-bromo-4-hydroxybenzyl)-3-(2-phenylacetamido)-2-azetidinone (18 mg.). Mp 151° to 153° C. (dec.).

reactant | Chloroform | 1.5 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 1-(α-methoxycarbonyl-4-hydroxybenzyl)-3-(2-phenylacetamido)-2-azetidinone | 184 mg | COC(=O)C(C1=CC=C(C=C1)O)N1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C20H20N2O5
reactant | chloroform | 0.5 ml | C(Cl)(Cl)Cl | CHCl3
reactant | bromine | 184 mg | BrBr | Br2
reactant | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 1-(α-methoxycarbonyl-3-bromo-4-hydroxybenzyl)-3-(2-phenylacetamido)-2-azetidinone | 18 mg | COC(=O)C(C1=CC(=C(C=C1)O)Br)N1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C20H19BrN2O5
